US05747499
(2) Methyl (2S)-2[N-(benzyloxycarbonyl)amino]-5-(methylsulphonyloxy)-pentanoate
To a solution of methyl ((2S)-2-[N-(benzyloxycarbonyl)amino]-5-hydroxy-pentanoate (1.84 g, 6.98 mmol) in dichloromethane (27 ml) cooled to -10° C. under argon was added triethylamine (1.057 g, 10.47 mmol) and then methanesulphonyl chloride (0.99 g, 8.72 mmol) over a 2 minute period. Stirring was continued for 35 minutes while the temperature was maintained below 0° C. The reaction mixture was then diluted with dichloromethane (200 ml) and washed with water (100 ml), 10% aqueous citric acid (2×100 ml), saturated aqueous sodium bicarbonate (100 ml) and dilute brine (100 ml), dried (Na2SO4) and concentrated in vacuo to a yellow oil residue. Purification by column chromatography, on elution with 1:1 v/v ethyl acetate/hexanes, afforded methyl (2S)-2-{N-(benzyloxycarbonyl)amino!-5-(methylsulphonyloxy)-pentanoate as a colourless viscous oil (2.40 g, 96%);

reactant | (2S)-2-[N-(benzyloxycarbonyl)amino]-5-hydroxy-pentanoate | 6.98 mmol, 1.84 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)[O-])CCCO
reactant | triethylamine | 10.47 mmol, 1.057 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 8.72 mmol, 0.99 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(methylsulphonyloxy)-pentanoate | 2.40 g | CS(=O)(=O)OCCCCC(=O)[O-]
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl (2S)-2[N-(benzyloxycarbonyl)amino]-5-(methylsulphonyloxy)-pentanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CCCOS(=O)(=O)C | C15H21NO7S
